US05468888
0.7 cm3 of thionyl chloride is added to a solution of 1 g of 8-aminooctanoic acid in 40 cm3 of methanol at a temperature in the region of -20° C. and stirring is maintained for 12 hours at a temperature in the region of 20° C. The solvent is removed under reduced pressure (2.7 kPa) at a temperature in the region of 35° C. 1.48 g of methyl 8-aminooctanoate hydrochloride is thus obtained in the form of a white solid.

reactant | thionyl chloride | 0.7 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 8-aminooctanoic acid | 1 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | methanol | 40 cm3 | CO | CH4O
product | methyl 8-aminooctanoate hydrochloride | 1.48 g | Cl.NCCCCCCCC(=O)OC | InChI=1S/C9H19NO2.ClH/c1-12-9(11)7-5-3-2-4-6-8-10;/h2-8,10H2,1H3;1H
